US06005058
1,6 Bis(N-Ethyl-N-Phenylamino)-2,4-Hexadiyne
The procedure follows that of Schlier (Ph.D. Thesis, Universitat Freiburg (1980)). To a stirred mixture of CuCl (4.90 g, 0.0495 Moles) in 300 mL Dimethylformamide (DMF) at room temperature in a bubbler was added N,N,N,N-Tetramethylenediamine (5.54 g, 0.0478 Moles). To this mixture was added via dropping funnel over 45 minutes N-ethyl-N-propargylaniline (9.24 g, 0.0581 Moles) in 150 mL DMF. Oxygen was then allowed to bubble through the mixture while stirring. After 21 hours 100 mL of water to which 5 mL of concentrated Hydrochloric acid had been added was added to the reaction mixture dropwise. Then 500 mL of water was added in the same way. This mixture was filtered by suction and washed with a little Hydrochloric acid of the same dilution as previously and dried in a vacuum dissector to yield 5.67 g of light plates (62% yield). Separation on a silica column eluted with a 4:1 Hexane/Ethyl acetate mixture and evaporating to a small volume yielded a product of higher purity, M.P. 109.3-111.4; IR (KBR) 3064, 3029, 2975, 2878, 1599, 1505, 1427, 1385, 1327, 1248, 1185, 749, 693 cm-1 ; 1H NMR (CDCl3) δ1.25 (t, J=7.6), 3.46 (q, J=7.4), 4.11(s, 4), 7.05 (m, 4), 7.31 (d, 4); 13C NMR (CDCl3) δ13.0 (--CH3), 40.1 (N--CH2 --), 46.0 (N--CH2 --), 68.5 (yneC-), 75.4 (yneC--Cyne), 114.3 (arom), 118.3 (arom), 129.7 (arom), 148.2 (arom).

reactant | N-ethyl-N-propargylaniline | 0.0581 Moles, 9.24 g | C(C)N(C1=CC=CC=C1)CC#C | C11H13N
reactant | Oxygen | O=O | O2
solvent | Dimethylformamide | 300 mL | CN(C=O)C | C3H7NO
solvent | DMF | 150 mL | CN(C=O)C | C3H7NO
catalyst | CuCl | 0.0495 Moles, 4.90 g | Cl[Cu]
product | 1,6 Bis(N-Ethyl-N-Phenylamino)-2,4-Hexadiyne | 62% yield | C(C)N(C1=CC=CC=C1)CC#CC#CCN(CC)C1=CC=CC=C1 | C22H24N2
